US07763638B2
1. Synthesis of {6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester
This compound is prepared by reaction of 6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,2,3,4-tetrahydroisoquinoline with α-bromo-phenyl-acetic acid methyl ester.

reactant | 6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCNC(C2=CC1OC)CCC1=CC=C(C=C1)C(F)(F)F | C20H22F3NO2
reactant | α-bromo-phenyl-acetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
product | {6,7-dimethoxy-1-[2-(4-trifluoromethyl-phenyl)-ethyl]-3,4-dihydro-1H-isoquinolin-2-yl}-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)N1C(C2=CC(=C(C=C2CC1)OC)OC)CCC1=CC=C(C=C1)C(F)(F)F)=O | C29H30F3NO4
